US07977331B1
To a suspension of methyl 2-(2-amino-4-benzyloxyphenyl)-3-cyclohexyl-1H-indole-6-carboxylate (6.17 g, 13.5 mmol), sodium acetate (1.22 g, 14.9 mmol) and acetic acid (0.86 ml, 14.9 mmol) in tetrahydrofuran (62 ml) was added dropwise chloroacetyl chloride (1.19 ml, 14.9 mmol), and the mixture was stirred at room temperature for 2 hr. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure and methanol was added. The precipitated solid was collected by filtration, washed with methanol and dried in vacuo to give methyl 2-[4-benzyloxy-2-(2-chloroacetylamino)phenyl]-3-cyclohexyl-1H-indole-6-carboxylate (3.90 g, yield 54%).

reactant | methyl 2-(2-amino-4-benzyloxyphenyl)-3-cyclohexyl-1H-indole-6-carboxylate | 13.5 mmol, 6.17 g | NC1=C(C=CC(=C1)OCC1=CC=CC=C1)C=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C29H30N2O3
reactant | sodium acetate | 14.9 mmol, 1.22 g | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 14.9 mmol, 0.86 ml | C(C)(=O)O | C2H4O2
reactant | chloroacetyl chloride | 14.9 mmol, 1.19 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | tetrahydrofuran | 62 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | methyl 2-[4-benzyloxy-2-(2-chloroacetylamino)phenyl]-3-cyclohexyl-1H-indole-6-carboxylate | 3.90 g, yield 54% | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)NC(CCl)=O | C31H31ClN2O4
